US08309581B2
d) 2-Fluoro-4-(1H-tetrazol-5-yl)-benzoic acid methyl ester
To a solution of 2-fluoro-4-(1H-tetrazol-5-yl)-benzoic acid (100 mg, 0.48 mmol) in methanol (5 ml), thionyl chloride (0.5 ml) was added at 0° C. and the reaction mixture was stirred at 25° C. for 12 h. The solvents were distilled off in vacuo, and the residue was purified by chromatography over silica gel (5% methanol/dichloromethane) to afford the title compound as a yellow solid (58%). MS (Turbo Spray): m/z=222.0 (M+H).

reactant | 2-fluoro-4-(1H-tetrazol-5-yl)-benzoic acid | 0.48 mmol, 100 mg | FC1=C(C(=O)O)C=CC(=C1)C1=NN=NN1 | C8H5FN4O2
reactant | methanol | 5 ml | CO | CH4O
solvent | thionyl chloride | 0.5 ml | S(=O)(Cl)Cl | Cl2OS
product | 2-Fluoro-4-(1H-tetrazol-5-yl)-benzoic acid methyl ester | 58% | COC(C1=C(C=C(C=C1)C1=NN=NN1)F)=O | C9H7FN4O2
